* C:\Users\skipi\Desktop\Leo\PoliTo\Anno4\Semestre2\ANALabs\LAB3\lab3.asc
V4 N001 0 SINE(198m 162m 45) AC 1 0
Ro1 N004 N002 3m
VAL1 N002 0 60V
I2 N004 N010 6 AC 1 0
V1 N002 N010 6
VDD1 N003 0 3.3
XU4 N008 N009 N003 0 Vx OPAx391
R6 Vx N009 20.5kk
R1 N009 N003 169k
R8 0 N009 2.21k
C3 0 N008 100n
R9 N005 Vx 6.19k
R10 N006 N005 9.76k
C5 N006 0 100n
C6 VADC N005 383n
XU5 N006 VADC N003 0 VADC OPAx391
R11 VADC 0 6.8k
R4 N008 N007 15k
XU1 N002 N004 N003 0 N007 INA290A1
* .tran 0 0.04 0
.ac dec 100 0.1 5Meg
.lib C:\Users\skipi\Desktop\Leo\PoliTo\Anno4\Semestre2\ANALabs\LAB3\INA290A1.lib
.lib C:\Users\skipi\Desktop\Leo\PoliTo\Anno4\Semestre2\ANALabs\LAB3\OPAx391.LIB
.backanno
.end
